US07456164B2
Dimethyl-{4-[3-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine
Alkylation of 3-[4-(dimethylamino)methyltetrahydro-2H-pyran-4-yl]phenol (0.1 g, 0.425 mmol) with 1-(3-chloropropyl)pyrrolidine (0.125 g, 0.85 mmol) according to general procedure B gave the desired compound after purification by flash chromatography (0.030 g, 20%). 1H NMR (400 MHz, CDCl3) δ7.27-7.18 (m, 1H), 6.92-6.84 (m, 2H), 6.75 (dd, 1H), 4.05 (t, 2H), 3.8-3.7 (m, 2H), 3.55 (t, 2H), 2.65 (t, 2H), 2.6-2.5 (m, 4H), 2.4 (s, 2H), 2.15-1.85 (m, 6H), 2.0 (s, 6H), 1.85-1.75 (m, 4H).

reactant | 3-[4-(dimethylamino)methyltetrahydro-2H-pyran-4-yl]phenol | 0.425 mmol, 0.1 g | CN(C)CC1(CCOCC1)C=1C=C(C=CC1)O | C14H21NO2
reactant | 1-(3-chloropropyl)pyrrolidine | 0.85 mmol, 0.125 g | ClCCCN1CCCC1 | C7H14ClN
product | Dimethyl-{4-[3-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine | CN(CC1(CCOCC1)C1=CC(=CC=C1)OCCCN1CCCC1)C | C21H34N2O2
